US07423035B2
b) 8-hydroxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one
258 mg (0.51 mmol) 8-benzyloxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one in 10 mL methanol are hydrogenated with palladium on charcoal as catalyst at 3 bar. Then the catalyst is separated off, the solvent is distilled off and the residue is purified by chromatography (reverse phase, water/acetonitrile gradient). Yield: 12 mg (6%); mass spectroscopy: [M+H]+=381.

reactant | 8-benzyloxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one | 0.51 mmol, 258 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC1(CC1)CC1=CC=C(C=C1)OC)O | C29H30N2O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 8-hydroxy-5-{1-hydroxy-2-[1-(4-methoxy-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one | OC=1C=CC(=C2C=CC(NC12)=O)C(CNC1(CC1)CC1=CC=C(C=C1)OC)O | C22H24N2O4
